### ISSUE TITLE
`rfl` cannot apply an `abbrev`'s `@[refl]`-marked property

### ISSUE THREAD

**Issue by rami3l** [leanprover-community/mathlib4#6017]
Minimal reproduction below:

```lean
import Mathlib.Tactic

namespace Repro

inductive Value : Type where | intro : Value
inductive Sub : Value → Value → Prop where | intro : Sub v w
abbrev Sub' (γ δ : α → Value) : Prop := ∀ (x : α), Sub (γ x) (δ x)

@[refl] def Sub.refl : Sub v v := .intro
example : Sub v v := by rfl
-- ^ This works.

@[refl] def Sub'.refl : Sub' γ γ | _ => Sub.refl
example : Sub' γ γ := by rfl
-- ^ Compiler error:
-- type mismatch
--   HEq.rfl
-- has type
--   HEq ?m.468 ?m.468 : Prop
-- but is expected to have type
--   Sub' γ γ : Prop
```

However, if I replace `abbrev Sub'` with `def Sub'`, then everything compiles without any error. Is this the intended behavior?

**Comment by digama0** [comment]
Yes this is intended behavior. abbrevs are unfolded by `rfl`, so the actual goal is
```
example (γ: α → Value) : ∀ (x : α), Sub (γ x) (γ x) := by rfl
```
which should be proved by `intro; rfl`.

**Comment by rami3l** [comment]
@digama0 Thanks a lot! I'll close this issue then.
